US05066795
To a solution composed of 20 ml of DMF and 2.24 g (12 mmol) of 2-mercaptobiphenyl was added 481 mg (12 mmol) of sodium hydride (60% in oil) little by little under ice cooling and stirring. Then, 1.73 ml (12 mmol) of perfluoropropyl iodide was added dropwise. The temperature of the mixture was slowly elevated to room temperature, and the mixture was stirred for 2 days. The white precipitate formed in the reaction solution was removed by filtration. Water was addd to the filtrate, and the mixture was extracted with hexane. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give a brown oil. It was purified by silica gel column chromatography (ethyl acetate:hexane=1:30) to give 3.46 g (87.3%) of 2-(heptafluoropropylthio)biphenyl as a colorless oil. The properties of the product were as shown below.

reactant | 2-mercaptobiphenyl | 12 mmol, 2.24 g | SC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10S
reactant | sodium hydride | 12 mmol, 481 mg | [H-].[Na+]
reactant | perfluoropropyl iodide | 12 mmol, 1.73 ml | FC(C(C(F)(F)F)(F)F)(F)I | C3F7I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(heptafluoropropylthio)biphenyl | 3.46 g, 87.3% | FC(C(SC1=C(C=CC=C1)C1=CC=CC=C1)(F)F)(C(F)(F)F)F | C15H9F7S
